US08431563B2
A 100 mL round-bottomed flask was charged with 1,1,1-trifluoro-2-(2-((2S)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-2-propanol dihydro chloride (0.250 g, 0.763 mmol) and 10 mL of CH2Cl2. To this was added 2-thiophenesulfonyl chloride (0.153 g, 0.839 mmol, Sigma-Aldrich, St. Louis, Mo.). After 15 min, the mixture was diluted with water (50 mL) and extracted with CH2Cl2 (2×50 mL). The combined extracts were dried (MgSO4), concentrated, and purified via column chromatography (40 g of silica, 0 to 50% EtOAc in hexanes) to give 1,1,1-trifluoro-2-(2-((2S)-2-methyl-4-(2-thiophenylsulfonyl)-1-piperazinyl)-5-pyrimidinyl)-2-propanol (0.125 g) as mixture of two isomers.

reactant | 1,1,1-trifluoro-2-(2-((2S)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-2-propanol dihydro chloride | 0.763 mmol, 0.250 g | Cl.Cl.FC(C(C)(O)C=1C=NC(=NC1)N1[C@H](CNCC1)C)(F)F
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
reactant | 2-thiophenesulfonyl chloride | 0.839 mmol, 0.153 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | water | 50 mL | O | H2O
product | 1,1,1-trifluoro-2-(2-((2S)-2-methyl-4-(2-thiophenylsulfonyl)-1-piperazinyl)-5-pyrimidinyl)-2-propanol | 0.125 g | FC(C(C)(O)C=1C=NC(=NC1)N1[C@H](CN(CC1)S(=O)(=O)C=1SC=CC1)C)(F)F | C16H19F3N4O3S2
